Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
SSRI
 
Attending: ___.
 
Chief Complaint:
Valproic acid overdose
 
Major Surgical or Invasive Procedure:
Intubation
 
History of Present Illness:
This is a ___ year old woman w/ h/o bipolar disorder, anxiety, 
ETOH, heroin abuse transferred from OSH for valproic acid 
overdose.  
.
She was initially found unresponsive in the bathroom by her 
father.  She had vomited and was laying on the ground. She was 
not answering questions and EMS was called. An empty bottle of 
valproic acid was found.  She was taken to OSH, where her labs 
were notable for: Valproic acid ___, bicarbonate 16, ammonia was 
1359, ETOH 48, salicalyte/tylenol negative and anion gap of 21. 
She received lactulose and ativan, and was transferred to ___. 
 
.  
At ___ ED, initial VS were: HR 92, RR 17, BP 113/62, 100% RA. 
She was intubated for airway protection. Toxicology was 
consulted who recommended activated charcoal, l-carnatine. Her 
ECG was sinus tachycardia, Qtc 428. Her labs were notable for: 
ammonia 59, inr 1.3, alt/ast ___, tbili 0.2, hco 18, AG 19, 
serium tox neg for asa/etoh/tylenol/benzo/barb/tca, valproate 
150, abg 7.37/32/511, lactate 4.9. She received 20gm activated 
charcoal, loading dose of l-carnatine iv, and NS. Current vent 
settings: FiO2 100%, 450, 20, 5.  
.  
In the MICU, pt l-carnatine was continued, and Toxicology 
recommended stopping after ammonia and valproate levels 
continued to trend downward.  She had an elevated lactate that 
improved with IVF.  She was successfully extubated on ___, and 
she was placed on an ativan CIWA scale and given a bannana bag 
given her h/o Etoh abuse.  A psychiatry consult was ordered, and 
the patient was started on a 1:1.
.
On the floor, patient complaining of some throat pain that has 
been present since extubation. She also notes some mild 
epigastric discomfort. When asked to describe the pain, she 
states that it feels more like she wants to throw up than it 
does actual pain.  She denies fevers/chills, congestion.  She 
states she had not been feeling sick recently.

 
Past Medical History:
-Depression  
-ETOH dependence  
-Marijuana Abuse  
-Tobacco Abuse  
-s/p 2 c-sections  
-s/p internal anal sphincterotomy  

 
Social History:
___
Family History:
Alcoholism, no history of gallstones 
 
Physical Exam:
Adm PE:
General: intubated
HEENT: Sclera anicteric, PERRL   
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: no foley
.
Discharge PE:
Vitals: 98.2 95/49 55 18 98%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, PERRL, oropharynx with erythema, 
few palatal hemorrhages likely related to recent intubation  
Neck: supple, mild cervical ___, some tenderness of 
submandibular area. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, mild tenderness to palpation in epigastric 
region.  non-distended, bowel sounds present, no organomegaly, 
no peritoneal signs, no rebound or guarding.  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: no rashes

 
Pertinent Results:
Adm labs:
___ 08:45PM   PLT COUNT-199
___ 08:45PM   NEUTS-76.9* ___ MONOS-3.7 EOS-0.2 
BASOS-0.8
___ 08:45PM   WBC-10.3# RBC-4.54# HGB-14.2# HCT-39.5 
MCV-87# MCH-31.3 MCHC-36.0*# RDW-12.9
___ 08:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:45PM   VALPROATE-150*
___ 08:45PM   CALCIUM-9.1 PHOSPHATE-3.0 MAGNESIUM-1.8
___ 08:45PM   ALT(SGPT)-9 AST(SGOT)-15 LD(LDH)-195 ALK 
PHOS-57 TOT BILI-0.2
___ 08:45PM   estGFR-Using this
___ 08:45PM   GLUCOSE-88 UREA N-10 CREAT-0.9 SODIUM-143 
POTASSIUM-4.4 CHLORIDE-106 TOTAL CO2-18* ANION GAP-23*
___ 09:09PM   ___ PTT-20.6* ___
___ 09:09PM   AMMONIA-59
___ 09:12PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 09:12PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:12PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:12PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:12PM URINE  UCG-NEGATIVE
___ 09:12PM URINE  HOURS-RANDOM
___ 09:21PM   LACTATE-4.9*
___ 09:21PM   TYPE-ART TEMP-36.8 RATES-/20 TIDAL VOL-450 O2 
FLOW-100 PO2-511* PCO2-32* PH-7.37 TOTAL CO2-19* BASE XS--5 
INTUBATED-INTUBATED VENT-CONTROLLED
.
Discharge labs:
___ 06:50AM BLOOD WBC-7.3 RBC-3.69* Hgb-11.1* Hct-32.5* 
MCV-88 MCH-30.1 MCHC-34.1 RDW-12.1 Plt ___
___ 12:39AM BLOOD ___
___ 06:50AM BLOOD Glucose-95 UreaN-5* Creat-0.6 Na-139 
K-3.5 Cl-106 HCO3-23 AnGap-14
___ 08:45PM BLOOD ALT-9 AST-15 LD(LDH)-195 AlkPhos-57 
TotBili-0.2
___ 06:50AM BLOOD Amylase-37
___ 06:50AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.8
___ 06:50AM BLOOD Ammonia-33
___ 06:50AM BLOOD Valproa-30*
___ 05:20AM BLOOD Type-ART pO2-146* pCO2-31* pH-7.41 
calTCO2-20* Base XS--3
.
Studies:
Chest xray: The endotracheal tube is above the thoracic inlet, 
6.6 cm above the carina and can be advanced for more optimal 
placement. An enteric feeding tube terminates within the mid 
esophagus and should be advanced for more optimal positioning. 
The lungs are clear. There are no pleural effusions or 
pneumothorax. The cardiomediastinal and hilar contours are 
normal. Pulmonary vascularity is normal. 
  
IMPRESSION: Support lines as described with endotracheal tube 
above the 
thoracic inlet and enteric feeding tube within the mid 
esophagus, both of 
which could be advanced for more optimal positioning. 
.

 
Brief Hospital Course:
Summary: ___ yo F w/ h/o bipolar disorder, anxiety, ETOH abuse 
transferred from OSH for valproic acid overdose.
.
# Overdose, unresponsiveness: In the MICU, Valproic acid and 
ammonia levels trended down after patient received L-carnitine.  
Remainder of tox screen was negative.  Lactate, AG acidosis 
trended down after getting ivfs.  Patient was extubated on 
hospital day 2 and transferred to the floor, where her ammonia 
and valproic acid levels continued to decline.  Patient denies 
any memory of ingesting anything.
.
# Suicide Attempt / Bipolar disorder with predominant 
depression:  Initially medications were held at the 
recommendation of the consult psychiatry team.  Seroquel was 
started on hospital day 3.  The pt was kept ___ with a 
1:1 sitter.  She was transferred to a psychiatry floor when 
medically stable, for further treatment of her depression. 
.
# Etoh abuse: Pt with significant alcohol use.  CIWA protocol 
was used, pt intially scoring for withdrawal, later for anxiety 
related to her underlying psychiatry diagnosis and a headache 
felt to be tension headache.  Thiamine, folate, and MVI were 
initiated. She will continue to be monitored for withdrawal on 
the psychiatry unit.
.
# Epigastric pain:  Gerd/gastritis were possibilities.  Was 
improving with tylenol.  Amylase and lipase were normal, and she 
tolerated a full diet prior to discharge to psychiatry.  
.
# Headache: Tension headache, improved with tylenol. Initially 
treated with ibuprofen as well as tylenol, but this was stopped 
given the concern for gastritis.
.
----
Transitional issues:
.
# O/D:  Pt does not remember taking, does have history of 
suicide attempt in past.
.
# Abdominal pain: Likely related to gastritis or reflux, treated 
conservatively with tylenol. Try to avoid NSAID use given 
gastritis concern.  Started on ranitidine, consider stopping 
when symptoms have resolved.
.
# Tension Headache:  Treated with tylenol.
.
# Alcohol withdrawal:  Intially in withdrawal, later was scoring 
on CIWA for anxiety and headache, likely unrelated to alcohol 
withdrawal.
.
# Medication reconcilliation:  Unclear what regimen pt was 
currently on.  She will need titration of her psychiatric 
medications while on the psychiatry floor.  At the consult 
team's rec, pt received seroquel 150mg QHS to help with sleep.
 
Medications on Admission:
Unclear which medications patient is taking, the following have 
been noted:
Geodon  
Lithium  
Valproic acid  
Chlorpromazine  
Benztropine  
Cymbalta  
Naltrexone  
Seroquel  
Propranolol  

 
Discharge Medications:
1. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. quetiapine 50 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
3. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
5. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
6. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO once a day. 
 
7. Valium 5 mg Tablet Sig: ___ Tablets PO every six (6) hours as 
needed for CIWA >10.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Valproic Acid overdose
Alcohol abuse and withdrawal
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after an overdose of valproic acid.  We gave 
you medications to lower these levels.  You required a breathing 
tube because of your sleepiness and to protect your airway 
(breathing).  
.
You were also withdrawing from alcohol, so we gave you 
medication to treat this.
.
You were transferred to a psychiatry floor to help with your 
bipolar disorder, and to help make sure to get you on the right 
medications to best help you feel better.
.
For your abdominal pain, you should START
-Ranitidine 150mg daily
-Tylenol 1g every 6 hours as needed for belly pain or headache.  
Do NOT take more than 4g daily.
-Thiamine, a multivitamin, and folic acid.  These medications 
will help supplement your nutrition.
 
Followup Instructions:
___